US09399640B2
Step 2. 4-[4-amino-2-(2,4-difluorophenoxy)-3-nitrophenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one
A suspension of 6-methyl-1-[(4-methylphenyl)sulfonyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one (0.17 g, 0.40 mmol), 4-bromo-3-(2,4-difluorophenoxy)-2-nitroaniline (0.14 g, 0.40 mmol), potassium phosphate (0.22 g, 1.0 mmol), tris(dibenzylideneacetone)dipalladium (0) (0.01 g, 0.01 mmol), and 1,3,5,7-tetramethyl-8-phenyl-2,4,6-trioxa-8-phosphatricyclo[3.3.1.13,7]decane (0.0139 g, 0.0475 mmol) in 1,4-dioxane (4 mL) and water (0.9 mL) was degassed with nitrogen for 5 min and stirred at 80° C. for 2 h. The reaction mixture was diluted with ethyl acetate and water. The organic layer was separated, washed with brine, dried with magnesium sulfate, filtered, and concentrated to give a crude residue. Purification by flash column chromatography (100% hexanes to 40% EtOAc/hexanes) gave the desired product (108 mg, 23%) as a brown oil. LCMS calculated for C27H21F2N4O6S (M+H)+: m/z=567.1. found: 567.1.

reactant | 6-methyl-1-[(4-methylphenyl)sulfonyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 0.40 mmol, 0.17 g | CN1C(C2=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)=O | C21H25BN2O5S
reactant | 4-bromo-3-(2,4-difluorophenoxy)-2-nitroaniline | 0.40 mmol, 0.14 g | BrC1=C(C(=C(N)C=C1)[N+](=O)[O-])OC1=C(C=C(C=C1)F)F | C12H7BrF2N2O3
reactant | potassium phosphate | 1.0 mmol, 0.22 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,3,5,7-tetramethyl-8-phenyl-2,4,6-trioxa-8-phosphatricyclo[3.3.1.13,7]decane | 0.0475 mmol, 0.0139 g | CC12OC3(OC(OC(P1C1=CC=CC=C1)(C3)C)(C2)C)C | C16H21O3P
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.9 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.01 mmol, 0.01 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[4-amino-2-(2,4-difluorophenoxy)-3-nitrophenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 108 mg, 23% | NC1=C(C(=C(C=C1)C=1C2=C(C(N(C1)C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)OC2=C(C=C(C=C2)F)F)[N+](=O)[O-] | C27H20F2N4O6S
